US04652551
A. 4-t-Butyloxycarbonylamino-3-hydroxy-6-methyl-1-phenylheptane
To a rapidly stirred -78° C. solution of Boc-Leucinal (1.50 g, 6.97 mmol) in anhydrous ether (10 ml) was added a -78° C. solution of phenethyl magnesium bromide (7 mmol) in anhydrous ether (40 ml) dropwise over the course of 15 minutes, and 45 minutes later the mixture was acidified. The oragnic phase was separated, washed with brine (2×10 ml) and dried (Na2SO4). Filtration and evaporation provided an oil (1.79 g) which was chromatographed with 150 g of 40 m SiO2 (7/3, hexane/ether) to give the desired compound (0.17 g). Mass spectrum: M+ =321.

reactant | Boc-Leucinal | 6.97 mmol, 1.50 g | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C=O | C11H21NO3
reactant | phenethyl magnesium bromide | 7 mmol | C(CC1=CC=CC=C1)[Mg]Br
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
product | 4-t-Butyloxycarbonylamino-3-hydroxy-6-methyl-1-phenylheptane | 1.79 g | C(C)(C)(C)OC(=O)NC(C(CCC1=CC=CC=C1)O)CC(C)C | C19H31NO3
